US08471005B2
7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine-2-carbonitrile (30.0 mg, 0.120 mmol) was suspended in Ethanol (3.0 mL, 51 mmol). Separately, Chlorotrimethylsilane (6.00 mL, 47.3 mmol) was added to Ethanol (9.00 mL, 154 mmol) in a vial, which was sealed and allowed to stand 20 min. The mixture of HCl/EtOH/EtOTMS was then added to the nitrile suspension. Monitoring by 1H-NMR (0.1 mL aliquots dried in vacuo) showed conversion overnight. Conc. in vacuo gave 7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine-2-carboxylic acid amide hydrochloride (25 mg, 68%). 1H-NMR (DMSO-d6): 9.26 (s, 1H), 8.04 (s, 1H), 7.85 (s, 1H), 7.78 (d, 1H, J=7.8 Hz), 7.49 (m, 1H), 7.37 (s, 1H), 7.23 (m, 2H), 7.12 (m, 1H), 3.09 (s, 3H); LCMS (Bruker): 3.0 min, 269 (M+H).

reactant | 7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine-2-carbonitrile | 0.120 mmol, 30.0 mg | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)C#N | C14H10N4O
reactant | Ethanol | 51 mmol, 3.0 mL | C(C)O | C2H6O
reactant | Chlorotrimethylsilane | 47.3 mmol, 6.00 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | Ethanol | 154 mmol, 9.00 mL | C(C)O | C2H6O
reactant | HCl EtOH EtOTMS | Cl.CCO.C(C)O[Si](C)(C)C
product | 7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine-2-carboxylic acid amide hydrochloride | 25 mg, 68% | Cl.COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)C(=O)N | InChI=1S/C14H12N4O2.ClH/c1-20-12-5-3-2-4-10(12)11-7-6-9-8-16-14(13(15)19)17-18(9)11;/h2-8H,1H3,(H2,15,19);1H
